US06900214B2
A mixture of 6-(3-bromophenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-(2H)-pyrimidine (1.46 g, 5 mmol), bis(pinacolato)diboron (1.40 g, 5.5 mmol), potassium acetate (1.47 g, 16.5 mmol) and DMF (5 mL) was flushed with nitrogen gas several times before [1,1′-bis(diphenylphsophino)ferrocene]dichloropalladium (50 mg) was introduced. The reaction mixture was heated at 95° C. under nitrogen for 18 h, cooled to room temperature and filtered through Celite. The filtrate was diluted with EtOAc, washed with water and with brine, dried (Na2SO4) and concentrated to give a dark viscous oil. This material was re-dissolved in DMF (5 mL) and reacted under nitrogen with 5-bromo-2-methylpyridine (0.66 g, 3.8 mmol), [1,1′-bis(diphenylphsophino)ferrocene]dichloropalladium (50 mg) and potassium carbonate (2.07 g, 15 mmol) at 95° C. for 18 h. The reaction mixture was cooled to room temperature, diluted with MeOH and stirred with AG 50W-X2 Resin for 5 min. The resin was collected by vacuum filtration, washed with MeOH and then eluted with 2 M NH3 in MeOH. This NH3-MeOH solution was concentrated in vacuo to give 5-cyano-3,6-dihydro-4-methyl-6-(3-(4-methyl-3-pyridyl)phenyl)-2-oxo-(2H)-pyrimidine as a brown solid (0.69 g; 45%): 1H NMR (DMSO-d6, 400 MHz) δ 9.55 (s, 1H), 8.72 (s, 1H), 7.92 (d, 1H, J=6.2 Hz), 7.85 (s, 1H), 7.64 (d, 1H, J=7.5 Hz), 7.57 (s, 1H), 7.51 (t, 1H, J=7.5 Hz), 7.33 (m, 2H), 5.18 (s, 1H), 2.49 (s, 3H), 2.01 (s, 3H).

reactant | 6-(3-bromophenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-(2H)-pyrimidine | 5 mmol, 1.46 g | BrC=1C=C(C=CC1)C1C(=C(NC(N1)=O)C)C#N | C12H10BrN3O
reactant | bis(pinacolato)diboron | 5.5 mmol, 1.40 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 16.5 mmol, 1.47 g | C(C)(=O)[O-].[K+]
reactant | 5-bromo-2-methylpyridine | 3.8 mmol, 0.66 g | BrC=1C=CC(=NC1)C | C6H6BrN
reactant | potassium carbonate | 15 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-cyano-3,6-dihydro-4-methyl-6-(3-(4-methyl-3-pyridyl)phenyl)-2-oxo-(2H)-pyrimidine | C(#N)C1=C(NC(NC1C1=CC(=CC=C1)C=1C=NC=CC1C)=O)C | C18H16N4O
